US08334287B2
c) 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole
To a solution of 500 mg (2.40 mmol) of 5-iodo-2-methyl-1H-imidazole (CAS: [73746-45-9]) in 7 ml of DMF were added under an argon atmosphere 118 mg (0.17 mmol) of Bis(triphenylphosphine)palladium dichloride and 0.67 ml (4.81 mmol) of triethylamine. The mixture was stirred for 10 min at room temperature. Then 0.52 ml (575 mg, 4.09 mmol) of 3-chloro-1-ethynyl-benzene and 13.7 mg (0.072 mmol) of copper(I) iodide were added and the mixture was stirred for 1.5 h at 60° C. The mixture was concentrated in vaccuo, dissolved in a minimal volume of methylene chloride and purified by chromatography on 20 g of silicagel (gradient Heptane/EtOAc 85:15->EtOAc) to yield 430 mg (83%) of the title compound as an orange crystalline solid, MS: m/e=217.2, 219.2 (M+H+).

reactant | 5-iodo-2-methyl-1H-imidazole | 2.40 mmol, 500 mg | IC1=CN=C(N1)C | C4H5IN2
reactant | triethylamine | 4.81 mmol, 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-1-ethynyl-benzene | 4.09 mmol, 0.52 ml, 575 mg | ClC=1C=C(C=CC1)C#C | C8H5Cl
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine)palladium dichloride | 0.17 mmol, 118 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.072 mmol, 13.7 mg | [Cu]I
product | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | 430 mg, 83% | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
